US09403801B2
3-(5-((5-chloro-2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)(methyl)amino)hexahydrocyclopenta[c]pyrrol-2(1H)-yl)-3-oxopropanenitrile
To a suspension of 5-chloro-N4-methyl-N2-(1-methyl-1H-pyrazol-4-yl)-N4-(octahydrocyclopenta[c]pyrrol-5-yl)pyrimidine-2,4-diamine (43.3 mg, 0.51 mmol) in DCM (15 mL) were added HOAT (71.6 mg, 0.53 mmol), EDCI (103.3 mg, 0.53 mmol) and Et3N (111.1 mg, 1.10 mmol). The reaction mixture was stirred at rt for 1 h, then quenched with H2O (30 mL) and extracted with DCM (100 mL×3). The combined organic phases were washed with brine (100 mL), dried over anhydrous Na2SO4, filtered and concentrated in vacuo. The residue was purified by silica gel column chromatography (MeOH/DCM (v/v)=1/30) to give the title compound as a beige solid (93.1 mg, 91.1%).

reactant | 5-chloro-N4-methyl-N2-(1-methyl-1H-pyrazol-4-yl)-N4-(octahydrocyclopenta[c]pyrrol-5-yl)pyrimidine-2,4-diamine | 0.51 mmol, 43.3 mg | ClC=1C(=NC(=NC1)NC=1C=NN(C1)C)N(C1CC2C(CNC2)C1)C | C16H22ClN7
reactant | HOAT | 0.53 mmol, 71.6 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | EDCI | 0.53 mmol, 103.3 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | Et3N | 1.10 mmol, 111.1 mg | CCN(CC)CC | C6H15N
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | 3-(5-((5-chloro-2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)(methyl)amino)hexahydrocyclopenta[c]pyrrol-2(1H)-yl)-3-oxopropanenitrile | 93.1 mg, 91.1% | ClC=1C(=NC(=NC1)NC=1C=NN(C1)C)N(C1CC2C(CN(C2)C(CC#N)=O)C1)C | C19H23ClN8O
